US06093731
A partly heterogeneous solution of N-[(4-chloro-1-guanidino-7-isoquinolinyl)carbonyl]cycloleucine ethyl ester (45 mg, 0.11 mmol) in dioxane (1.5 mL) was stirred with aqueous NaOH (1 mL, 2 M) for 2.5 h at 23° C. Dilute HCl (1 mL, 2 M) was added to give a cream suspension. The solid was collected by filtration and dried in vacuo to yield N-[(4-chloro-1-guanidino-7-isoquinolinyl)carbonyl]cycloleucine (40 mg, 0.11 mmol).

reactant | N-[(4-chloro-1-guanidino-7-isoquinolinyl)carbonyl]cycloleucine ethyl ester | 0.11 mmol, 45 mg | C(C)OC(C1(NC(=O)C2=CC=C3C(=CN=C(C3=C2)NC(=N)N)Cl)CCCC1)=O | C19H22ClN5O3
reactant | NaOH | 2 M, 1 mL | [OH-].[Na+]
reactant | HCl | 2 M, 1 mL | Cl | ClH
solvent | dioxane | 1.5 mL | O1CCOCC1 | C4H8O2
product | N-[(4-chloro-1-guanidino-7-isoquinolinyl)carbonyl]cycloleucine | 0.11 mmol, 40 mg | ClC1=CN=C(C2=CC(=CC=C12)C(=O)NC1(CCCC1)C(=O)O)NC(=N)N | C17H18ClN5O3
